US06743820B2
A mixture of phenol (28.2 g), NaOH (4.0 g) and water (15 ml) was heated on a boiling water bath until the mixture became homogeneous. Styrene oxide (12.0 g) was added dropwise over a period of 15 minutes and the mixture was heated with stirring on a boiling water bath for 1 hr. The mixture was poured into a solution of NaOH (12.0 g) in ice water (200 ml) and extracted with ether (50 ml) 2 times. The ether solution was dried over anhydrous sodium sulfate and the solvent distilled off to obtain a crystalline product. Recrystallization from methylene chloride-hexane gave white crystals (6.6 g) of 2-phenoxy-2-phenylethanol.

reactant | phenol | 28.2 g | C1(=CC=CC=C1)O | C6H6O
reactant | NaOH | 4.0 g | [OH-].[Na+]
reactant | Styrene oxide | 12.0 g | C1C(C2=CC=CC=C2)O1 | C8H8O
reactant | NaOH | 12.0 g | [OH-].[Na+]
solvent | water | 15 ml | O | H2O
product | 2-phenoxy-2-phenylethanol | 6.6 g | O(C1=CC=CC=C1)C(CO)C1=CC=CC=C1 | C14H14O2
